US08258306B2
To a solution of (R)-methyl 2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methyl-piperazin-1-yl)acetate (0.5 g, 1.37 mmol) in THF (10 mL) and methanol (1 mL) at 0° C. was added a solution of LiOH.H2O (0.16 g, 3.81 mmol) in water (1 mL). The reaction mixture was stirred for 4 h. Methanol and THF were distilled under reduced pressure and the residue was washed with ethyl acetate. The pH of the aqueous layer was adjusted to 7 and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate and concentrated under reduced pressure to afford the crude product which was purified by silica gel (100-200 mesh) column chromatography eluting with 5-7% methanol in chloroform to afford pure (R)-2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methylpiperazin-1-yl)acetic acid.

reactant | (R)-methyl 2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methyl-piperazin-1-yl)acetate | 1.37 mmol, 0.5 g | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](N(CC1)CC(=O)OC)C | C20H29ClN2O2
reactant | LiOH.H2O | 3.81 mmol, 0.16 g | O[Li].O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | methanol | 1 mL | CO | CH4O
solvent | water | 1 mL | O | H2O
product | (R)-2-(4-(1-(4-chlorophenyl)cyclohexyl)-2-methylpiperazin-1-yl)acetic acid | ClC1=CC=C(C=C1)C1(CCCCC1)N1C[C@H](N(CC1)CC(=O)O)C | C19H27ClN2O2
